US05492925
Preparation of 2-(5-Formyl-2-furyl)-5-(trifluoromethyl) pyrrole-3-carbonitrile
Butyllithium (3.45 mL, 7.78 mmol) is added dropwise to a solution of 2-(5-bromo-2-furyl)-5-(trifluoromethyl) pyrrole-3-carbonitrile (1.13 g, 3.70 mmol) in tetrahydrofuran at -78° C. The reation mixture is stirred at -78° C. for 30 minutes, warmed to room temperature, treated with N,N-dimethylformamide (1.35 g, 18.5 mmol), poured into one molar hydrochloric acid and extracted with ether and ethyl acetate. The combined organic extracts are washed sequentially with water and brine, dried over Na2SO4 and concentrated in vacuo to obtain an orange solid. Flash chromatography of the solid using silica gel and 20% to 50% ethyl acetate in hexane solutions give an orange solid which is recrystallized from ethyl acetate to obtain the title product as orange crystals (0.66 g, 70%, mp 224°-225° C.).

reactant | Butyllithium | 7.78 mmol, 3.45 mL | C(CCC)[Li]
reactant | 2-(5-bromo-2-furyl)-5-(trifluoromethyl) pyrrole-3-carbonitrile | 3.70 mmol, 1.13 g | BrC1=CC=C(O1)C=1NC(=CC1C#N)C(F)(F)F | C10H4BrF3N2O
reactant | N,N-dimethylformamide | 18.5 mmol, 1.35 g | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | one molar | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-Formyl-2-furyl)-5-(trifluoromethyl) pyrrole-3-carbonitrile | 0.66 g, 70% | C(=O)C1=CC=C(O1)C=1NC(=CC1C#N)C(F)(F)F | C11H5F3N2O2
